* OVERALL BEST CANDIDATE: 00_Phase_2_48V_to_12V_Server_Bus_Buck_High_Pwr_g2_cand1_b3
* FITNESS SCORE: 0.5966
*
* Generated: 2026-06-01T02:44:16
* Constraint: Phase 2: 48V to 12V Server Bus (Buck - High Pwr)
*   vin_min = 44
*   vin_max = 52
*   vout_target = 12
*   efficiency_target = 0.9
*   power_in = 150
* Candidate: 5 of 8
* Grouped name: g2_cand1
*
Vin in 0 44
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 220u
C1 out 0 220u
Rload out Vin/4.333 0.96
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
