* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_3
* Fitness: 0.9241
*
* --- Active Constraints ---
* _comment: Phase 2: 48V to 12V Server Bus (Buck - High Pwr)
* vin_min: 44
* vin_max: 52
* vout_target: 12
* efficiency_target: 0.9
* power_in: 150
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 11.700453
* efficiency: 0.617154
* total_volume_cm3: 10000.000000
* total_components: 4
* ============================

* cand_3
Vin in 0 44
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 220u
C1 out 0 220u
Rload out 0 0.278
Vgate gate sw PULSE(0 12 0 1n 1n 4.16u 10u)
R1 gate 0 1Meg
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end